US07390779B2
Following our general procedure, 15.6 g (100 mmol) of 1-(3′,3′-dimethylcyclohexyl)ethanol were esterified with 9.45 g (100 mmol) of chloroacetic acid in anhydrous dichloromethane in the presence of 1.22 g (10 mmol) of 4-(dimethylamino)pyridine and 22.7 g (110 mmol) of N,N′-dicyclohexylcarbodiimide. The usual work-up provided 28.4 g of crude product, which was purified by flash chromatography (600 g silica gel, pentane/ether, 19:1, Rf=0.77) to provide 20.5 g (88%) of chloroacetic acid 1-(3,3-dimethylcyclohexyl)ethyl ester, 4.80 g (20.6 mmol) of which were dissolved in 50 ml of diethyl ketone and 13 ml of 1,4-dioxane. To this solution, 1.77 g (20.6 mmol) of cyclopropanecarboxylic acid and 5.69 g (41.2 mmol) of potassium carbonate were added, and the resulting mixture was refluxed for 20 h. The reaction mixture was then poured onto 100 g of ice, and the product was extracted twice with 150 ml of ether. The combined ethereal extracts were washed with 100 ml of water and 50 ml of brine, dried with sodium sulphate, and concentrated under reduced pressure to furnish 26.0 g of crude material. This was purified by flash chromatography (175 g silica gel, pentane/ether, 9:1, Rf=0.52) to provide 3.56 g (61%) of the target compound cyclopropanecarboxylic acid 1-(3,3-dimethylcyclohexyl)ethoxycarbonylmethyl ester (12).

reactant | 1-(3′,3′-dimethylcyclohexyl)ethanol | 100 mmol, 15.6 g | CC1(CC(CCC1)C(C)O)C | C10H20O
reactant | chloroacetic acid | 100 mmol, 9.45 g | ClCC(=O)O | C2H3ClO2
reactant | N,N′-dicyclohexylcarbodiimide | 110 mmol, 22.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 10 mmol, 1.22 g | CN(C1=CC=NC=C1)C | C7H10N2
product | chloroacetic acid 1-(3,3-dimethylcyclohexyl)ethyl ester | 20.5 g, 88% | CC1(CC(CCC1)C(C)OC(CCl)=O)C | C12H21ClO2
